US05574140
To a stirring solution of (492 g, 1.68 mmoles) benzoylmercaptoacetyl-N-hydroxysuccinimide and (150 mg, 0.84 mmoles) 1,3-diaminoacetone hydrochloride monohydrate in (15 mL) dioxane was added (850 mg, 8.40 mmoles) triethylamine. The reaction stirred 3.5 days followed by rotavapping off the dioxane to a yellow oil and adding (3 mL) water to a yellow solid. The solid was crushed, filtered, washed with water, and dried in vacuo yielding 242 mg, 65% N,N'-bis-(S-benzoylmercaptoacetyl)-1,3-diaminoacetone (m.p. 134°-140° C.).

reactant | benzoylmercaptoacetyl-N-hydroxysuccinimide | 1.68 mmoles, 492 g | C(C1=CC=CC=C1)(=O)SCC(=O)C1C(=O)N(C(C1)=O)O | C13H11NO5S
reactant | 1,3-diaminoacetone hydrochloride monohydrate | 0.84 mmoles, 150 mg | O.Cl.NCC(=O)CN
reactant | triethylamine | 8.40 mmoles, 850 mg | C(C)N(CC)CC | C6H15N
reactant | water | 3 mL | O | H2O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | N,N'-bis-(S-benzoylmercaptoacetyl)-1,3-diaminoacetone | 242 mg, 65% | C(C1=CC=CC=C1)(=O)SCC(=O)NCC(=O)CNC(CSC(C1=CC=CC=C1)=O)=O | C21H20N2O5S2
